US06573279B1
A conventional amidation reaction was carried out using a dichloromethane solution (40 ml) of 2.53 g of (±)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline, 3.0 g of N-(tert-butyloxycarbonyl)nipecotic acid, 3.0 g of 1-ethyl-3-[3-(dimethylamino)propyl]carbodiimide hydrochloride and 0.89 g of 1-hydroxybenztriazole to give 3.77 g of (±)-6,7-dimethoxy-2-{[1-(tert-butyloxycarbonyl)-3-piperidyl]carbonyl}-1,2,3,4-tetrahydroisoquinoline. Deprotection of 3.77 g of (±)-6,7-dimethoxy-2-{[1-(tert-butyloxycarbonyl)-3-piperidyl]carbonyl}-1,2,3,4-tetrahydroisoquinoline was further carried out using 10 ml of an ethyl acetate solution containing 4N hydrochloric acid to give 2.30 g of (±)-6,7-dimethoxy-2-[(3-piperidyl)carbonyl]-1,2,3,4-tetrahydroisoquinoline hydrochloride as colorless crystals.

reactant | (±)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | 2.53 g | COC=1C=C2CCNCC2=CC1OC | C11H15NO2
reactant | N-(tert-butyloxycarbonyl)nipecotic acid | 3.0 g | C(C)(C)(C)OC(=O)N1CC(C(=O)O)CCC1 | C11H19NO4
reactant | 1-ethyl-3-[3-(dimethylamino)propyl]carbodiimide hydrochloride | 3.0 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenztriazole | 0.89 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | (±)-6,7-dimethoxy-2-{[1-(tert-butyloxycarbonyl)-3-piperidyl]carbonyl}-1,2,3,4-tetrahydroisoquinoline | 3.77 g | COC=1C=C2CCN(CC2=CC1OC)C(=O)C1CN(CCC1)C(=O)OC(C)(C)C | C22H32N2O5
